US06875771B2
2-(4-Chlorobenzenesulfonyl)-3,3-bis-methylsulfanyl-acrylonitrile
To a solution of 2-(4-chlorobenzenesulfonyl) acetonitrile (600 mg, 2.78 mmol) in anhydrous DMSO (8 ml) under an argon atmosphere was added carbon disulfide (212 mg, 2.78 mmol). The reaction mixture was cooled to approximately 0° C. and 2 equivalents of sodium hydride (5.56 mmol) was added in one portion. The resulting thick reaction mixture was swirled until homogeneous and allowed to warm to room temperature for one hour with stirring. The reaction mixture was cooled again to 0° C. and 2 equivalents of iodomethane (5.56 mmol) was added under argon. The reaction mixture was allowed to gradually warm to room temperature and after 18 hours deionized water was added (30 ml) and the resulting slurry was stirred for 15 minutes. The solid was collected by filtration, washed with deionized water, and dried. The crude solid product thus obtained was dissolved in 25% hexanes/chloroform and purified via flash chromatography. The resulting solution was concentrated in vacuo to provide the titled compound as a light yellow solid in 65% yield.

reactant | 2-(4-chlorobenzenesulfonyl) acetonitrile | 2.78 mmol, 600 mg | ClC1=CC=C(C=C1)S(=O)(=O)CC#N | C8H6ClNO2S
reactant | carbon disulfide | 2.78 mmol, 212 mg | C(=S)=S | CS2
reactant | sodium hydride | 5.56 mmol, 2 equivalents | [H-].[Na+]
reactant | iodomethane | 5.56 mmol, 2 equivalents | IC | CH3I
reactant | DMSO | 8 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(4-Chlorobenzenesulfonyl)-3,3-bis-methylsulfanyl-acrylonitrile | 65% yield | ClC1=CC=C(C=C1)S(=O)(=O)C(C#N)=C(SC)SC | C11H10ClNO2S3
